US07767834B2
6-Chloro-2-({3-chloro-2,4-dihydroxy-5-[2-(methoxycarbonyl)ethyl]phenyl}carbonyl)benzoic acid (32).
To a solution of 3-chlorophthalic anhydride (3.7 g, 20 mmol) ((J. Org. Chem., 1987, 52, 129-134) in 60 mL of anhydrous 1,2-dichloroethane was added 6.6 g (50 mmol) of AlCl3 followed by 4.6 g (20 mmol) of methyl 3-(3-chloro-2,4-dihydroxyphenyl)propanoate (WO 03/023357). The reaction was heated at reflux for 30 min, cooled and concentrated. The resultant gelatinous material was partitioned between cold 2 N HCl (100 mL) and ethyl acetate (100 mL). The organic layer was washed with 1 N HCl, brine, dried over Na2SO4 and concentrated to afford an oily material (mixture of 6- and 2-chloroisomers). The oil was dissolved in dichloromethane (˜40 mL) and briefly sonicated (ultrasound bath) to initiate crystallization. The mixture was cooled (ice/water bath) and allowed to crystallize for 30 min (extended crystallization time will result in co-crystallization of undesired 2-chloro isomer). The crystals were collected by filtration washed with cold dichloromethane. Drying under vacuum afforded 4.01 g of desired 6-chloro isomer 32. 1H NMR (DMSO-d6) δ 12.47 (br s, 1H), 10.78 (br s, 1H), 8.06 (d, J=7.7 Hz, 1H), 7.89 (d, J=7.9 Hz, 1H), 7.71 (t, J=7.9 Hz, 1H), 6.76 (s, 1H), 3.46 (s, 3H), 2.27 (m, 2H), 2.41 (t, J=6.6 Hz, 2H).

reactant | 3-chlorophthalic anhydride | 20 mmol, 3.7 g | ClC1=C2C(C(=O)OC2=O)=CC=C1 | C8H3ClO3
reactant | AlCl3 | 50 mmol, 6.6 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | methyl 3-(3-chloro-2,4-dihydroxyphenyl)propanoate | 20 mmol, 4.6 g | ClC=1C(=C(C=CC1O)CCC(=O)OC)O | C10H11ClO4
solvent | 1,2-dichloroethane | 60 mL | ClCCCl | C2H4Cl2
solvent | dichloromethane | ˜40 mL | ClCCl | CH2Cl2
product | 6-Chloro-2-({3-chloro-2,4-dihydroxy-5-[2-(methoxycarbonyl)ethyl]phenyl}carbonyl)benzoic acid | ClC1=CC=CC(=C1C(=O)O)C(=O)C1=C(C(=C(C(=C1)CCC(=O)OC)O)Cl)O | C18H14Cl2O7
